US08859611B2
To a solution of 4-(4-(4-chloro-2-methoxyphenyl)thiophen-3-yl)phenol (700 mg, 2.1 mmol) in anhydrous THF (5 mL) was added NaH (90 mg, 2.3 mmol) at 0° C. After the mixture was stirred at the temperature for 0.5 h, chloro(methoxy) methane (184 mg, 2.3 mmol) was added. The mixture was stirred at 0° C. for 1 hour, and at room temperature for 2 hours. When TLC indicated the starting material was consumed, the mixture was quenched with water, and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated to give the crude product, which was purified by column to give 3-(4-chloro-2-methoxyphenyl)-4-(4-(methoxymethoxy)phenyl)thiophene (720 mg, 90%) which was taken forward to Step 3.

reactant | 4-(4-(4-chloro-2-methoxyphenyl)thiophen-3-yl)phenol | 2.1 mmol, 700 mg | ClC1=CC(=C(C=C1)C=1C(=CSC1)C1=CC=C(C=C1)O)OC | C17H13ClO2S
reactant | NaH | 2.3 mmol, 90 mg | [H-].[Na+]
reactant | chloro(methoxy) methane | 2.3 mmol, 184 mg | ClCOC | C2H5ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-chloro-2-methoxyphenyl)-4-(4-(methoxymethoxy)phenyl)thiophene | 720 mg, 90% | ClC1=CC(=C(C=C1)C1=CSC=C1C1=CC=C(C=C1)OCOC)OC | C19H17ClO3S
